US07067658B2
[4-(2-Chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine (0.17 g, 0.47 mmol) and Na2S2O4 (0.66 g, 3.79 mmol) were treated substantially as described in Part E of Example 9 to give 0.14 g (88%) crude 4-(2-chloro-4-methoxy-phenyl)-N2-(1-cyclopropyl-propyl)-pyridine-2,3-diamine: MS (AP) m/z 331.8 [(M+H)+, 100].

reactant | [4-(2-Chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-cyclopropyl-propyl)-amine | 0.47 mmol, 0.17 g | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)NC(CC)C1CC1)[N+](=O)[O-] | C18H20ClN3O3
reactant | Na2S2O4 | 3.79 mmol, 0.66 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | 4-(2-chloro-4-methoxy-phenyl)-N2-(1-cyclopropyl-propyl)-pyridine-2,3-diamine | 0.14 g, 88% | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)NC(CC)C1CC1)N | C18H22ClN3O
